US06544985B2
(2-Amino-5-dimethylamino-4-methyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (5-dimethylamino-4-methyl-2-nitro-phenyl)-carbamic acid tert-butyl ester (Example C19) (3.22 g, 10.9 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a gray solid (2.05 g, 58%).

reactant | (5-dimethylamino-4-methyl-2-nitro-phenyl)-carbamic acid tert-butyl ester | 10.9 mmol, 3.22 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C)[N+](=O)[O-])=O | C14H21N3O4
catalyst | Pd/C | [Pd] | Pd
product | (2-Amino-5-dimethylamino-4-methyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C)N)=O | C14H23N3O2
